* C:\Users\ASUS\Documents\Electronics\Filters Design\Low Pass Filter\Draft2.asc
V1 N001 0 AC 1
C1 N001 0 100µ
L2 N001 N002 10µ
R1 N002 0 50
C2 N002 0 100µ
.ac dec 20 500k 10000000k
.backanno
.end
